US06458817B1
(2S)-1-(1H-1,2,3-benzotriazol-4-yloxy)-3-{[4-({[3-(4-methylphenyl)-1,2,4-oxadiazol-5-yl]methyl}sulfanyl)phenethyl]amino}-2-propanol
To a solution of 1-(2,3-diaminophenoxy)-3-[[2-[4-[[[3-(4-methylphenyl)-1,2,4-oxadiazol-5-yl]methyl]thio]phenyl]ethyl]amino]-2-propanol (0.077 g, 0.172 mmol.) in acetic acid (1.2 mL) at 5° C. was added a solution of sodium nitrite (0.013 g, 0.189 mmol) in water (0.5 mL). The mixture was stirred for 30 minutes and evaporated to dryness. The residue was purified by flash chromatography (silica gel; CH2Cl2/MeOH (3/1) to afford 0.079 g of the pure title compound. MP=110° C.

reactant | 1-(2,3-diaminophenoxy)-3-[[2-[4-[[[3-(4-methylphenyl)-1,2,4-oxadiazol-5-yl]methyl]thio]phenyl]ethyl]amino]-2-propanol | 0.172 mmol, 0.077 g | NC1=C(OCC(CNCCC2=CC=C(C=C2)SCC2=NC(=NO2)C2=CC=C(C=C2)C)O)C=CC=C1N | C27H31N5O3S
reactant | sodium nitrite | 0.189 mmol, 0.013 g | N(=O)[O-].[Na+]
solvent | acetic acid | 1.2 mL | C(C)(=O)O | C2H4O2
solvent | water | 0.5 mL | O | H2O
product | (2S)-1-(1H-1,2,3-benzotriazol-4-yloxy)-3-{[4-({[3-(4-methylphenyl)-1,2,4-oxadiazol-5-yl]methyl}sulfanyl)phenethyl]amino}-2-propanol | 0.079 g | N1N=NC2=C1C=CC=C2OC[C@H](CNCCC2=CC=C(C=C2)SCC2=NC(=NO2)C2=CC=C(C=C2)C)O | C27H28N6O3S
